US07304077B2
Step a: 4-(2-Chloro-4-fluorophenoxy)piperidine.
DEAD (0.90 ml) was added to a solution of triphenylphosphine (1.44 g), 2-chloro-4-fluorophenol (0.806 g) and 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (1.0 g) in THF at RT. The reaction was stirred for 16 hrs, HCl (2 ml, 4M in dioxan) added and the mixture stirred at RT for 16 hrs. The mixture was then evaporated to dryness, triethylamine (5 ml) added, re-evaporated, dissolved in methanol (10 ml) and placed on to a SCX cartridge (Varian, 10 g), eluted first with methanol then with 10% NH3 in methanol. The basic fractions were combined and evaporated to give the sub-title compound as an oil (0.98 g)

reactant | DEAD | 0.90 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 1.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-chloro-4-fluorophenol | 0.806 g | ClC1=C(C=CC(=C1)F)O | C6H4ClFO
reactant | 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 1.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | HCl | 4M, 2 ml | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 4-(2-Chloro-4-fluorophenoxy)piperidine | 0.98 g | ClC1=C(OC2CCNCC2)C=CC(=C1)F | C11H13ClFNO
